US08357693B2
A mixture of tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-(2-morpholinoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.330 g, 0.527 mmol), 1-bromo-2-chloroethane (0.287 g, 2.00 mmol) and K2CO3 (0.330 g, 2.39 mmol) in DMF (3 mL) was heated at 85° C. for 3 h. The mixture was allowed to cool to RT, upon which it was diluted with water (200 mL) and the resulting precipitate was collected via filtration. The solid was taken up in EtOAc (250 mL) and washed with water (1×100 mL) and brine (1×100 mL), dried (Na2SO4), filtered and concentrated in vacuo to give tert-butyl 5-(6-(2-chloroethoxy)-7-methoxy-2-(3-(2-morpholinoacetamido)-phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate which was used without further purification (0.300 g, 0.436 mmol, 83%). HPLC retention time 5.842 mins.

reactant | tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-(2-morpholinoacetamido)phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.527 mmol, 0.330 g | OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)NC(CN1CCOCC1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C33H35N7O6
reactant | 1-bromo-2-chloroethane | 2.00 mmol, 0.287 g | BrCCCl | C2H4BrCl
reactant | K2CO3 | 2.39 mmol, 0.330 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | tert-butyl 5-(6-(2-chloroethoxy)-7-methoxy-2-(3-(2-morpholinoacetamido)-phenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)NC(CN1CCOCC1)=O)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C35H38ClN7O6
